US04963530
To a solution of L-phenylalanine benzyl ester p-toluenesulfonic acid salt (4.27 g) in dry toluene (50 ml) was added triethylamine (1.01 g) and trichloromethyl chloroformate (0.732 ml). The mixture was stirred at 80° C. for 30 minutes. After evaporation of the solvent, the residue was dissolved in dry tetrahydrofuran (40 ml) and morpholine (871 mg) was added to the solution at ambient temperature. The mixture was stirred at the same temperature for 3 hours. After evaporation of the solvent, the residue was dissolved in ethyl acetate (100 ml) and the solution was washed with 5% hydrochloric acid, saturated sodium bicarbonate solution and water successively, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (30% ethyl acetate in n-hexane as eluent) to give N-morpholinocarbonyl-L-phenylalanine benzyl ester (3.02 g) as an amorphous powder.

reactant | L-phenylalanine benzyl ester p-toluenesulfonic acid salt | 4.27 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
reactant | trichloromethyl chloroformate | 0.732 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-morpholinocarbonyl-L-phenylalanine benzyl ester | 3.02 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)N1CCOCC1)CC1=CC=CC=C1)=O | C21H24N2O4
